US08236826B2
Production of 1-(t-butoxycarbonyl)-4-(4-hydroxyphenyl)-1,2,5,6-tetrahydropyridine
To a solution of 1-(t-butoxycarbonyl)-4-[(4-methoxymethoxy)phenyl]-4-hydroxypiperidine (5.32 g, 15.8 mmol) in toluene (100 mL) was added p-toluenesulfonic acid monohydrate (0.56 g, 2.95 mmol), and the resulting solution was refluxed for 21 hours. The reaction solution was cooled to room temperature, and evaporated under reduced pressure. To this crude product were added ethanol (60 mL) and 2 M hydrochloric acid (40 mL, 80 mmol), and the resulting solution was stirred for 2 hours at 60° C. The reaction solution was again cooled to room temperature, and evaporated under reduced pressure. To the residue were added methanol (100 mL), triethylamine (9.0 mL, 64.6 mmol) and di-t-butyl dicarbonate (5.20 g, 23.8 mmol), and the resulting solution was stirred for 24 hours at room temperature. The solvent was evaporated under reduced pressure, after which to the residue was added 100 mL of ethyl acetate. Insoluble matter was removed by filtration, after which the filtrate was evaporated under reduced pressure. To the residue were added 1,4-dioxane (50 mL) and a 1 M aqueous solution of sodium hydroxide (50 mL, 50 mmol) and stirred for 14 hours at 60° C. To the resulting reaction solution was added at room temperature 2 M hydrochloric acid (25 mL, 50 mmol) to neutralize, and then extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated to thereby yield 4.10 g of the title compound.

reactant | p-toluenesulfonic acid monohydrate | 2.95 mmol, 0.56 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | hydrochloric acid | 80 mmol, 2 M, 40 mL | Cl | ClH
reactant | triethylamine | 64.6 mmol, 9.0 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 23.8 mmol, 5.20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 50 mmol, 50 mL | [OH-].[Na+]
reactant | hydrochloric acid | 50 mmol, 2 M, 25 mL | Cl | ClH
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 100 mL | CO | CH4O
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 1-(t-butoxycarbonyl)-4-(4-hydroxyphenyl)-1,2,5,6-tetrahydropyridine | C(C)(C)(C)OC(=O)N1CC=C(CC1)C1=CC=C(C=C1)O | C16H21NO3
